US05216156
N-{4,6-Bis[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-2-yl}glycine
The title compound is prepared from the reaction of 2-chloro-4,6-bis[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine and glycine according to the procedure of Example 15.

reactant | 2-chloro-4,6-bis[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazine | ClC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)NCCCCC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C | C41H74ClN7O2
reactant | glycine | NCC(=O)O | C2H5NO2
product | N-{4,6-Bis[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)butylamino]-1,3,5-triazin-2-yl}glycine | C1(CCCCC1)ON1C(CC(CC1(C)C)CCCCNC1=NC(=NC(=N1)NCCCCC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)NCC(=O)O)(C)C | C43H78N8O4
